US07173031B2
D) 3-Fluoro-4-(6-(2-morpholinopyridin-4-yl)pyrrolo[2,1-f][1,2,4]triazin-4-yloxy)benzenamine
To a solution of 4-(2-fluoro-4-nitrophenoxy)-6-(2-morpholinopyridin-4-yl)pyrrolo[2,1-f][1,2,4]triazine (54 mg, 0.12 mmol) in a mixture of THF (2.0 mL) and MeOH (2.0 mL) were added NH4Cl (127 mg, 2.4 mmol) and Zn dust (78 mg, 1.2 mmol). The reaction mixture was stirred at room temperature for 3 h, filtered and concentrated in vacuo. The residue was purified by preparative HPLC to provide the desired product (40 mg, 82% yield). MS(ESI) m/z 407.19 (M+H)+.

reactant | 4-(2-fluoro-4-nitrophenoxy)-6-(2-morpholinopyridin-4-yl)pyrrolo[2,1-f][1,2,4]triazine | 0.12 mmol, 54 mg | FC1=C(OC2=NC=NN3C2=CC(=C3)C3=CC(=NC=C3)N3CCOCC3)C=CC(=C1)[N+](=O)[O-] | C21H17FN6O4
reactant | NH4Cl | 2.4 mmol, 127 mg | [NH4+].[Cl-]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | MeOH | 2.0 mL | CO | CH4O
catalyst | Zn | 1.2 mmol, 78 mg | [Zn] | Zn
product | 3-Fluoro-4-(6-(2-morpholinopyridin-4-yl)pyrrolo[2,1-f][1,2,4]triazin-4-yloxy)benzenamine | 40 mg, 82% yield | FC=1C=C(C=CC1OC1=NC=NN2C1=CC(=C2)C2=CC(=NC=C2)N2CCOCC2)N | C21H19FN6O2
